US04011236
2-Aminobenzimidazole (13.3 g.) is dissolved in 50 ml. of pyridine, and 10.2 g. of phthaloyl chloride is added, causing immediate precipitation. On mixing and heating on the steam-bath, all dissolves. The solution is heated 2 hours on the steam-bath with occasional swirling. It is cooled to room temperature and quenched in 200 ml. of water. After 1 hour agitation, the mixture is filtered free of solids and the solids washed with water. The yield of N-(benzimidazol-2-yl)phthalimide is 11.6 g. Recrystallization from glacial acetic acid results in bright yellow crystals of N-(benzimidazol-2-yl)phthalimide which, after drying, melts at 266°-268° C., λmax. 295.0, E11%cm. 529.

reactant | 2-Aminobenzimidazole | 13.3 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | phthaloyl chloride | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(benzimidazol-2-yl)phthalimide | N1=C(NC2=C1C=CC=C2)N2C(C=1C(C2=O)=CC=CC1)=O | C15H9N3O2
